US08975415B2
To a solution of N-[5″,5″-difluoro-6′-(pyrimidin-5-yl)-5″,6″-dihydrodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]thiazin]-2″-yl]benzamide (76 mg, 0.16 mmol) in ethanol (4 mL) were added N-hydroxymethanamine hydrochloride (133 mg, 1.59 mmol) and pyridine (126 mg, 1.59 mmol), and the mixture was stirred for 27 hours at 70° C. After cooling, H2O and brine were added and the mixture was extracted with chloroform. The organic layer was dried over MgSO4 and concentrated. The residue was purified by silica gel chromatography (EtOAc/hexane=50:50-100:0 and then EtOH/CHCl3=5:95) and a resultant solid was washed with iPr2O to give 5″,5″-difluoro-6′-(pyrimidin-5-yl)-5″,6″-dihydrodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]thiazin]-2″-amine (36 mg).

reactant | N-[5″,5″-difluoro-6′-(pyrimidin-5-yl)-5″,6″-dihydrodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]thiazin]-2″-yl]benzamide | 0.16 mmol, 76 mg | FC1(C2(N=C(SC1)NC(C1=CC=CC=C1)=O)C1(COC3=CC=C(C=C32)C=3C=NC=NC3)CC1)F | C25H20F2N4O2S
reactant | N-hydroxymethanamine hydrochloride | 1.59 mmol, 133 mg | Cl.ONC
reactant | pyridine | 1.59 mmol, 126 mg | N1=CC=CC=C1 | C5H5N
reactant | H2O | O | H2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 5″,5″-difluoro-6′-(pyrimidin-5-yl)-5″,6″-dihydrodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]thiazin]-2″-amine | 36 mg | FC1(C2(N=C(SC1)N)C1(COC3=CC=C(C=C32)C=3C=NC=NC3)CC1)F | C18H16F2N4OS
